data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
844,914,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N+:20]([CH3:21])=[C:22]([CH3:23])[CH3:24].[CH:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[CH:1]1=[C:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:22]([CH3:23])([CH3:24])[N:20]([CH3:21])[C:13]1([C:11]([NH:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,25.35413966352377,-43.54552956219976
483,528,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][F:7].[CH3:8][NH:9][C:10](=[O:11])[c:12]1[o:13][c:14](=[O:15])[c-:16]([C:17]([CH3:18])=[O:19])[n+:20]1[CH3:21]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[C:12]2([C:10]([NH:9][CH3:8])=[O:11])[O:13][C:14](=[O:15])[C:16]1([C:17]([CH3:18])=[O:19])[N:20]2[CH3:21],water,298.15,21.08721434370609,-21.07666859450458
3064,3438,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][N-:10][N+:11]#[C:12][C:13]([CH3:14])=[O:15]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:10]([CH3:9])[N:11]=[C:12]2[C:13]([CH3:14])=[O:15],water,298.15,9.75197348111207,-37.58557449881012
90,101,[CH3:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[N:17].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[N:17]=[N:16][C:14]3([C:12]([CH3:11])=[O:13])[CH3:15],water,298.15,23.812271378703645,-22.497939496715563
3057,3422,[CH2-:6][N+:7]([CH3:8])=[C:9]([C:10]#[N:11])[C:12]([CH3:13])=[O:14].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:9]([C:10]#[N:11])([C:12]([CH3:13])=[O:14])[N:7]([CH3:8])[CH2:6]1,water,298.15,54.64077362377375,40.072863879975664
2522,2801,[CH3:1][O:2][C:3](=[O:4])/[C:5](=[C:6](/[C:7](=[O:8])[O:9][CH3:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:23][N-:24][N+:25]([CH3:26])=[C:27]([C:28](=[O:29])[NH:30][CH3:31])[C:32](=[O:33])[O:34][CH3:35]>>[CH3:1][O:2][C:3](=[O:4])[C@@:5]1([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[C@@:6]([C:7](=[O:8])[O:9][CH3:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:24]([CH3:23])[N:25]([CH3:26])[C:27]1([C:28](=[O:29])[NH:30][CH3:31])[C:32](=[O:33])[O:34][CH3:35],water,298.15,37.92543015816357,17.060845418684394
406,444,[CH3:14][O:15][C:16](=[O:17])[N-:18][N+:19]#[N:20].[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([F:4])[c:5]2[c:6]([n:20][n:19][n:18]2[C:16]([O:15][CH3:14])=[O:17])[C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1,water,298.15,30.45547922216556,-48.09887315489607
1687,1862,[CH3:11][O:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[CH:15]([C:13]([O:12][CH3:11])=[O:14])[N:16]([CH3:17])[C:18]2([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,25.87200808385125,-21.58671575154521
5207,5908,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([N+:19]#[C:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:19]=[C:20]2[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,12.833644990562634,-11.100583689464363
2588,2869,[CH3:10][O:11][C:12](=[O:13])[C-:14]([O+:15]=[C:16]([CH3:17])[C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]([Br:6])=[C:7]([Br:8])[Br:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]([Br:8])([Br:9])[C:16]([CH3:17])([C:18]([CH3:19])=[O:20])[O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:21](=[O:22])[O:23][CH3:24],water,298.15,36.11890274184096,-21.236201759378822
2853,3171,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[O+:18][C-:19]([C:20]#[N:21])[C:22](=[O:23])[NH:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[Cl:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[Cl:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:19]([C:20]#[N:21])([C:22](=[O:23])[NH:24][CH3:25])[O:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,15.220032651118984,-47.19427556682008
3526,4024,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][CH-:10][N+:11]([CH3:12])=[C:13]([C:14]#[N:15])[C:16](=[O:17])[O:18][CH3:19]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[CH:10]([CH3:9])[N:11]([CH3:12])[C:13]2([C:14]#[N:15])[C:16](=[O:17])[O:18][CH3:19],water,298.15,11.864770353641054,-14.192717447720618
